US04601846
7. 6-(4-n-Propylphenyl)-3-methylthio-1,2,4,5-tetrazine (12)
0.0163 Mol (4.05 g) of 6-(4-n-propylphenyl)-3-methylthio-1.2-dihydro-1,2,4,5-tetrazine is dissolved in 80 ml crystalline acetic acid at 40° C. and 18 ml of a 1-molar Br2 -crystalline acetic acid solution is added dropwise. The solution is stirred for one hour and subsequently poured over ice water. The red dyestuff is vacuum dried, washed with water and dried. Recrystallization from ethanol provides 3.4 g of red crystals. M.pt.: 78°-79° C. The compounds characterized in Table 7 are made in an analogous fashion manner.

reactant | 6-(4-n-propylphenyl)-3-methylthio-1.2-dihydro-1,2,4,5-tetrazine | 0.0163 Mol, 4.05 g | C(CC)C1=CC=C(C=C1)C1=NN=C(NN1)SC | C12H16N4S
reactant | Br2 | 1-molar | BrBr | Br2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 6-(4-n-Propylphenyl)-3-methylthio-1,2,4,5-tetrazine | 3.4 g | C(CC)C1=CC=C(C=C1)C1=NN=C(N=N1)SC | C12H14N4S
